US07125901B2
To a ice-cold solution of N-{4-[2-(4-aminophenyl)ethyl]-5-[4-(methylsulfonyl)benzyl]-1,3-thiazol-2-yl}acetamide (247.6 mg) in acetone (4.8 ml) was added benzoyl isothiocyanate (94.1 mg), and the mixture was stirred at r.t. for 1 hour. Water was added to the mixture, and the mixture was extracted with AcOEt. The organic layer was washed with water and brine, dried over anhydrous MgSO4, and concentrated in vacuo. The residual amorphous substance was dissolved in EtOH (5 ml), and 6N-NaOH (0.288 ml) was added to the solution at 0° C. The reaction mixture was stirred at r.t. for 2 hours, and neutralized with 1N-HCl at 0° C. The mixture was extracted with AcOEt. The organic layer was washed with water and brine, dried over anhydrous MgSO4, and concentrated in vacuo. The residue was solidified with ethyl ether to give N-{4-(2-{4-[(aminocarbonothioyl)amino]phenyl}ethyl)-5-[4-(methylsulfonyl)benzyl]-1,3-thiazol-2-yl}acetamide (290.7 mg) as an off-white solid.

reactant | N-{4-[2-(4-aminophenyl)ethyl]-5-[4-(methylsulfonyl)benzyl]-1,3-thiazol-2-yl}acetamide | 247.6 mg | NC1=CC=C(C=C1)CCC=1N=C(SC1CC1=CC=C(C=C1)S(=O)(=O)C)NC(C)=O | C21H23N3O3S2
reactant | benzoyl isothiocyanate | 94.1 mg | C(C1=CC=CC=C1)(=O)N=C=S | C8H5NOS
reactant | Water | O | H2O
solvent | acetone | 4.8 ml | CC(=O)C | C3H6O
product | N-{4-(2-{4-[(aminocarbonothioyl)amino]phenyl}ethyl)-5-[4-(methylsulfonyl)benzyl]-1,3-thiazol-2-yl}acetamide | 290.7 mg | NC(=S)NC1=CC=C(C=C1)CCC=1N=C(SC1CC1=CC=C(C=C1)S(=O)(=O)C)NC(C)=O | C22H24N4O3S3
